US08080568B1
3-Bromo-N,N-dimethyl-5-nitroaniline (1.73 g, 7.06 mmol) (prepared according to the method described in J. Org. Chem. 60: 5091-5103 (2003)), pyridine (24 mL), and CuCN (1.26 g, 2.14 mmol) were added to a dry sealed tube. The mixture was heated at 220° C. with stirring for 3.5 h. The reaction mixture was allowed to cool to 100° C., poured into a flask containing a mixture of aqueous ammonia (100 mL) and water (100 mL), and extracted with EtOAc (2×100 mL). The EtOAc solution was washed with diluted ammonia solution (100 mL), water (100 mL) and brine (100 mL) successively, dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give 3-(dimethylamino)-5-nitrobenzonitrile (0.44 g, 33%) as an orange solid. 1H NMR (400 MHz, CDCl3): δ 7.74 (dd, 1H, J=2.0, 1.2 Hz), 7.65 (t, 1H, J=2.2 Hz), 7.11 (dd, 1H, J=2.4, 1.2 Hz), 3.10 (s, 6H).

reactant | 3-Bromo-N,N-dimethyl-5-nitroaniline | 7.06 mmol, 1.73 g | BrC=1C=C(N(C)C)C=C(C1)[N+](=O)[O-] | C8H9BrN2O2
reactant | pyridine | 24 mL | N1=CC=CC=C1 | C5H5N
reactant | CuCN | 2.14 mmol, 1.26 g | C(#N)[Cu]
reactant | ammonia | 100 mL | N | H3N
solvent | water | 100 mL | O | H2O
product | 3-(dimethylamino)-5-nitrobenzonitrile | 0.44 g, 33% | CN(C=1C=C(C#N)C=C(C1)[N+](=O)[O-])C | C9H9N3O2
